US05340716
1. p-Formylphenoxyacetic acid dioctadecylamide
To a 100 mL solution of freshly distilled tetrahydrofuran (THF) was added p-formylphenoxyacetic acid (K & K Labs) (MW 180, 0.540 g, 3.0 mmol), triethyl amine (MW 101.19, 0.333 g, 3.3 mmol) and trimethylacetyl chloride (MW 120.57, 0.398 g, 3.3 mmol). After 20 minutes of heating at reflux, dioctadecylamine (Fluke) (MW 522.01, 1.723 g, 3.3 mmol) was added. The reaction was refluxed overnight.

reactant | p-formylphenoxyacetic acid | 3.0 mmol, 0.540 g | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
reactant | triethyl amine | 3.3 mmol, 0.333 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 3.3 mmol, 0.398 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | dioctadecylamine | 3.3 mmol, 1.723 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Formylphenoxyacetic acid dioctadecylamide | C(CCCCCCCCCCCCCCCCC)N(C(COC1=CC=C(C=C1)C=O)=O)CCCCCCCCCCCCCCCCCC | C45H81NO3
